US04350695
978 g of isatoic acid anhydride were added in portions with stirring at 150° C. to a mixture of 720 g of urea and 1 liter of dimethylformamide and the mixture was then heated at 180° C. until evolution of ammonia ceased. The mixture was cooled and one liter of water was immediately added thereto followed by the addition of one liter of methanol. The warm mixture was stirred for one hour and was then filtered. The product was rinsed with warm water and with methanol and was then added with stirring to 2-3 volumes of warm dimethylformamide. The mixture was filtered and the product was rinsed with methanol to obtain 747 g of quinazoline-2,4-dione.

reactant | isatoic acid anhydride | 978 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | urea | 720 g | NC(=O)N | CH4N2O
reactant | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
reactant | ammonia | N | H3N
solvent | methanol | one liter | CO | CH4O
solvent | water | one liter | O | H2O
product | quinazoline-2,4-dione | 747 g | N1C(NC(C2=CC=CC=C12)=O)=O | C8H6N2O2
